US09315491B2
4-Chloro-5-methoxy-2-(4-nitro-phenyl)-pyrimidine
In ice bath, dimethyl-phenyl-amine (1.19 mL, 1.0 eq) was added dropwise to a slurry of 5-Methoxy-2-(4-nitro-phenyl)-3H-pyrimidin-4-one (2.3 g, 1.0 eq) in POCl3 (4.4 mL, 5.0 eq) and the mixture was refluxed overnight. Excess POCl3 was evaporated in vacuo and the residue was poured into ice-water. After formation of precipitates, the mixture was filtered and the residue was dried solid in vacuo. A product was obtained as a white solid (2.47 g, 61%).

reactant | dimethyl-phenyl-amine | 1.19 mL, 1.0 eq | CN(C1=CC=CC=C1)C | C8H11N
reactant | 5-Methoxy-2-(4-nitro-phenyl)-3H-pyrimidin-4-one | 2.3 g, 1.0 eq | COC=1C(NC(=NC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H9N3O4
reactant | POCl3 | 4.4 mL, 5.0 eq | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-methoxy-2-(4-nitro-phenyl)-pyrimidine | 2.47 g, 61% | ClC1=NC(=NC=C1OC)C1=CC=C(C=C1)[N+](=O)[O-] | C11H8ClN3O3
